US07666868B2
B3. (E)-3-[1-(5-Bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide
A mixture of 3.8 g (E)-3-[1-(5-bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid with 200 ml DMF and 1.6 g HOBtxH2O and 15.0 ml triethylamine is stirred at ambient temperature for 0.5 h. Then 6.04 g EDCxHCL are added and the suspension is stirred again for 0.5 h. Finally 1.23 g O-(tetrahydro-2H-pyran-2-yl)hydroxylamine are added and the suspension is stirred at ambient temperature for 24 h. The DMF is evaporated and the residue is extracted with ethyl acetate and water. The organic layer is dried over sodium sulfate and evaporated. The title product is isolated by flash chromatography. By this method 4.6 g of a yellow foam are obtained.

reactant | (E)-3-[1-(5-bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-acrylic acid | 3.8 g | BrC1=CC=C(S1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)O | C11H8BrNO4S2
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 1.23 g | O1C(CCCC1)ON | C5H11NO2
solvent | triethylamine | 15.0 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-[1-(5-Bromo-thiophene-2-sulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | BrC1=CC=C(S1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C16H17BrN2O5S2
